US08461149B2
Step 3: (R)-methyl 2-((R)-3,3-difluorocyclopentylamino)butanoate
(R)-tert-butyl 2-((R)-3,3-difluorocyclopentyl amino)butanoate (1.0 g, 3.798 mmol) was dissolved in methanol (70 mL) and cooled down to 0° C. The resultant mixture was saturated with HCl gas, then stirred at room temperature for 3 hours. The reaction mixture was warmed to 40° C. for 90 minutes then concentrated under reduced pressure. The residue was partitioned between DCM and an aqueous solution of NaHCO3. The aqueous phase was extracted with DCM three times, dried over magnesium sulfate and concentrated under reduced pressure to afford the desired product as colourless oil (645 mg, 78% yield).

reactant | (R)-tert-butyl 2-((R)-3,3-difluorocyclopentyl amino)butanoate | 3.798 mmol, 1.0 g | FC1(C[C@@H](CC1)N[C@@H](C(=O)OC(C)(C)C)CC)F | C13H23F2NO2
reactant | HCl | Cl | ClH
solvent | methanol | 70 mL | CO | CH4O
product | (R)-methyl 2-((R)-3,3-difluorocyclopentylamino)butanoate | 645 mg, 78% yield | FC1(C[C@@H](CC1)N[C@@H](C(=O)OC)CC)F | C10H17F2NO2
